US04788199
The procedure is as in Example 7, starting with 2-(2-pyridyl)-4-quinazolinepropanoic acid (1.34 g), carbonyldiimidazole (0.93 g) and diethylamine (1 cc) in dimethylformamide (25 cc). After chromatography on silica gel with a chloroform/methanol (95:5 by volume) mixture as eluant, and crystallization in ethyl acetate, N,N-diethyl-2-(2-pyridyl)-4-quinazolinepropanamide (0.58 g), m.p. 130° C. is obtained.

reactant | 2-(2-pyridyl)-4-quinazolinepropanoic acid | 1.34 g | N1=C(C=CC=C1)C1=NC2=CC=CC=C2C(=N1)CCC(=O)O | C16H13N3O2
reactant | carbonyldiimidazole | 0.93 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | diethylamine | 1 cc | C(C)NCC | C4H11N
solvent | dimethylformamide | 25 cc | CN(C=O)C | C3H7NO
product | N,N-diethyl-2-(2-pyridyl)-4-quinazolinepropanamide | 0.58 g | C(C)N(C(CCC1=NC(=NC2=CC=CC=C12)C1=NC=CC=C1)=O)CC | C20H22N4O
